US07335658B2
Synthesis of 6-[4-(4,4,4-TRIFLUORO-2-METHYLBUTYRYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (3-METHYLBUTYL)AMIDE
A mixture of TFA salt of 6-piperazin-1-yl-pyridazine-3-carboxylic acid (3-methylbutyl)amide (100 mg, 0.25 mmol), 4,4,4-trifluoro-2-methylbutyric acid (47.8 mg, 0.31 mmol), 1,8-diazabicylco[5.4.0]undec-7-ene (77.8 mg, 0.51 mmol) and 1-hydroxybenozotriazole hydrate (41.4 mg, 0.31 mmol) in DMF (2 mL) was stirred at ambient temperature for 15 minutes. 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide (47.6 mg, 0.31 mmol) was added to this solution. The reaction mixture was stirred at ambient temperature overnight and then diluted with ethyl acetate (50 mL) and washed with aqueous saturated NaHCO3 (2×20 mL) and finally with brine (2×20 mL). The organic extract was dried over anhydrous Na2SO4, concentrated, and then purified by column chromatography eluted with hexanes:ethyl acetate (1:2). The product was obtained as a white flaky solid (80 mg, 75% yield). 1H NMR (300 MHz, CDCl3) δ8.07, 7.85, 7.01, 3.60-4.00, 3.50, 3.15, 2.80, 2.21, 1.70, 1.50, 1.25, 0.95. MS (ES+) m/z 416 (M+1).

reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 6-piperazin-1-yl-pyridazine-3-carboxylic acid (3-methylbutyl)amide | 0.25 mmol, 100 mg | CC(CCNC(=O)C=1N=NC(=CC1)N1CCNCC1)C | C14H23N5O
reactant | 4,4,4-trifluoro-2-methylbutyric acid | 0.31 mmol, 47.8 mg | FC(CC(C(=O)O)C)(F)F | C5H7F3O2
reactant | 1,8-diazabicylco[5.4.0]undec-7-ene | 0.51 mmol, 77.8 mg | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide | 0.31 mmol, 47.6 mg | CN(CCCN=C=NCC)C | C8H17N3
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 6-[4-(4,4,4-TRIFLUORO-2-METHYLBUTYRYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (3-METHYLBUTYL)AMIDE | 80 mg, 75% yield | CC(CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C(CC(F)(F)F)C)=O)C | C19H28F3N5O2
